US04405640
n-Butyl lithium (12.9 ml of a 1.6M solution in hexane) was added dropwise to a solution of 3-bromo-2,4,5,6-tetrafluorotoluene (5.0 g) in diethyl ether (40 ml) under an argon atmosphere whilst maintaining the mixture temperature within the range -60° to -70° C. When the addition was complete the mixture was stirred for a period of 1.5 hours at -70° C. after which a solution of N-methylformanilide (2.8 g) in diethyl ether (15 ml) was added and the resultant mixture allowed to attain the ambient temperature (ca. 25° C.). Dilute hydrochloric acid (25 ml) of a 2 N solution) was added to the well-stirred mixture after which the ethereal layer was separated, washed with water and dried over anhydrous magnesium sulphate. After removal of the solvent by evaporation under reduced pressure the residual oil was distilled to yield 3-methyl-2,4,5,6-tetrafluorobenzaldehyde (1.6 g) b.p. 78°-80° C./14 mm Hg. Infra red (liquid film): 1710, 1640, 1490, 1140 cm-1

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 3-bromo-2,4,5,6-tetrafluorotoluene | 5.0 g | BrC=1C(=C(C(=C(C1F)F)F)C)F | C7H3BrF4
reactant | N-methylformanilide | 2.8 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-methyl-2,4,5,6-tetrafluorobenzaldehyde | 1.6 g | CC=1C(=C(C=O)C(=C(C1F)F)F)F | C8H4F4O
